US08026234B2
Compound 57: 9-cyclohexyl-7,7-difluoro-2-(2-methoxy-4-(4-methylpiperazine-1-carbonyl)-phenylamino)-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and N-methylpiperazine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27-1.35 (m, 2H) 1.54-1.67 (m, 3H) 1.72-1.84 (m, 5H) 2.83 (s, 3H) 3.31 (d, J=3.2 Hz, 3H) 3.91 (d, J=4.6 Hz, 3H) 3.95-4.33 (m, 10H) 4.39-4.54 (m, 1H) 7.06 (dd, J=8.1, 2.0 Hz, 1H) 7.13 (d, J=110 Hz, 1H) 8.10-8.18 (m, 1H) 8.22 (d, J=3.0 Hz, 1H). [M+H] calc'd for C27H35F2N7O3 544. found 544.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 9-cyclohexyl-7,7-difluoro-2-(2-methoxy-4-(4-methylpiperazine-1-carbonyl)-phenylamino)-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C=C2)C(=O)N2CCN(CC2)C)OC | C27H35F2N7O3
